US03971797
Step A: Preparation of 2-methyl-3-acetoxy-4-hydroxymethyl-5-acetoxymethylpyridine
One equivalent of 2-methyl-3-acetoxy-4-formyl-5-acetoxymethylpyridine in 1 liter of anhydrous diethyl ether is treated with 1.5 equivalents of sodium borohydride and aged 3 hours at room temperature. The reaction mixture is quenched on excess aqueous ammonium chloride solution and the ether layer is separated. After magnesium sulfate drying, concentration in vacuo gives the desired product.

reactant | 2-methyl-3-acetoxy-4-formyl-5-acetoxymethylpyridine | One equivalent | CC1=NC=C(C(=C1OC(C)=O)C=O)COC(C)=O | C12H13NO5
reactant | sodium borohydride | 1.5 equivalents | [BH4-].[Na+]
solvent | diethyl ether | 1 liter | C(C)OCC | C4H10O
product | 2-methyl-3-acetoxy-4-hydroxymethyl-5-acetoxymethylpyridine | CC1=NC=C(C(=C1OC(C)=O)CO)COC(C)=O | C12H15NO5
